US07893062B2
a) N-[(3S,4R)-1-Benzyl-4-(4-fluoro-phenyl)-pyrrolidin-3-yl]-2-(3-chloro-phenyl)-N-methyl-isobutyramide (VI-6)
A solution of 2-(3-chloro-phenyl)-2-methyl-propionyl chloride (the preparation of which is described in DE2659404) (0.10 g, 0.46 mmol) in CH2Cl2 (4 ml) was added drop wise to a stirred solution of rac-[(3S,4R)-1-benzyl-4-(4-fluoro-phenyl)-pyrrolidin-3-yl]-methyl-amine (the preparation of which is described herein above) (0.11 g, 0.38 mmol) and ethyl-diisopropyl-amine (0.10 ml, 0.58 mmol) in CH2Cl2 (5 ml). The reaction mixture was stirred 2 h, concentrated under vacuo and purification by flash chromatography (SiO2, EtOAc/H, 1:3) yielded 0.14 g (80%) of the title product as light yellow oil. ES-MS m/e: 465.2 (M+H+).

reactant | 2-(3-chloro-phenyl)-2-methyl-propionyl chloride | ClC=1C=C(C=CC1)C(C(=O)Cl)(C)C | C10H10Cl2O
reactant | rac-[(3S,4R)-1-benzyl-4-(4-fluoro-phenyl)-pyrrolidin-3-yl]-methyl-amine | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=CC=C(C=C1)F)NC | C18H21FN2
reactant | ethyl-diisopropyl-amine | 0.58 mmol, 0.10 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[(3S,4R)-1-Benzyl-4-(4-fluoro-phenyl)-pyrrolidin-3-yl]-2-(3-chloro-phenyl)-N-methyl-isobutyramide | 0.14 g, 80% | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=CC=C(C=C1)F)N(C(C(C)(C)C1=CC(=CC=C1)Cl)=O)C | C28H30ClFN2O
